US09315517B2
(2-{4-(4-Fluoro-3-trifluoromethyl-phenyl)-2-[1-(5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidin-4-yl)-piperidin-4-yl]-imidazol-1-yl}-ethyl)-dimethylamine (“A32”)
The title compound was prepared according to the procedure described for the preparation of A5 by using 4-chloro-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine coupling with 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine. LC-MS (M+H=518, obsd.=518);

reactant | 4-chloro-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NCCC2 | C7H8ClN3
reactant | 2-(4-(4-fluoro-3-(trifluoromethyl)phenyl)-2-(piperidin-4-yl)-1H-imidazol-1-yl)-N,N-dimethylethanamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN(C)C)C1CCNCC1)C(F)(F)F | C19H24F4N4
product | (2-{4-(4-Fluoro-3-trifluoromethyl-phenyl)-2-[1-(5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidin-4-yl)-piperidin-4-yl]-imidazol-1-yl}-ethyl)-dimethylamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN(C)C)C1CCN(CC1)C=1C2=C(N=CN1)NCCC2)C(F)(F)F | C26H31F4N7
